US07291631B2
A solution C-(3,5-dimethyl-pyridin-2-yl)-methylamine (354 mg, 2.60 mmol), Boc2O (567 mg, 2.6 mmol) and DIPEA (453 μL, 5.2 mmol) in THF was stirred at ambient temperature for 18 h. After the solvent was removed in vacuo, the residue was taken up in a saturated solution of NaHCO3 (25 mL) and extracted with CH2Cl2 (3×50 mL). The combined organic layers were dried over Na2SO4 and concentrated in vacuo to afford (3,5-dimethyl-pyridin-2-ylmethyl)-carbamic acid tert-butyl ester (657 mg, >99%). 1H NMR (CDCl3) δ 1.48 (s, 9H), 2.41 (s, 3H), 2.29 (s, 3H), 4.37 (d, 2H, J=6.0 Hz), 6.15 (bs, 1H), 7.26 (s, 1H), 8.19 (s, 1H).

reactant | C-(3,5-dimethyl-pyridin-2-yl)-methylamine | 2.60 mmol, 354 mg | CC=1C(=NC=C(C1)C)CN | C8H12N2
reactant | Boc2O | 2.6 mmol, 567 mg | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | DIPEA | 5.2 mmol, 453 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | THF | C1CCOC1 | C4H8O
product | (3,5-dimethyl-pyridin-2-ylmethyl)-carbamic acid tert-butyl ester | 657 mg, >99% | C(C)(C)(C)OC(NCC1=NC=C(C=C1C)C)=O | C13H20N2O2
